Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
adhesive / Nuts
 
Attending: ___
 
Chief Complaint:
___ Weakness
 
Major Surgical or Invasive Procedure:
___ - T5/T6 laminectomies for resection of intradural 
extramedullary spinal cord tumor.

 
History of Present Illness:
___ y/o F with history of arthritis, neuropathy, DMII and obesity 
presents with progressively worsening weakness x 1 week. Patient 
states that she has had weak knees that has been causing 
frequent falls over the past several months and was on her way 
to have knee replacements when she was evaluated by her 
orthopedist who thought she should also be seen by a neurologist 
for her
symptoms. She was unable to get an appointment until ___ so 
she was following up with her PCP. Patient ambulates with a 
walker and when on her way to her appointment this week had 
difficulty walking from car to the office. She was transported 
with a wheelchair and her PCP recommended that she go to ___ 
___ and have an MRI. MRI was performed which revealed a 
mass at T6 and she was transferred to ___ for further 
evaluation. She reports low back pain with numbness and tingling 
in the RLE in the medial aspect of her foot to the great toe. 
She also reports weakness. She states that she has at baseline 
stool incontinence since ___ d/t a rectal abscess. She denies 
any
urinary incontinence.   

 
Past Medical History:
hypercholesterolemia, NIDM, HTN, melanoma

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
PHYSICAL EXAM:
O: T:97.6  BP:142/76  HR:76    R: 18    O2Sats: 99%RA
Gen: WD/WN, comfortable, NAD.
HEENT: atraumatic, normocephalic
Pupils: PERRL        EOMs: intact

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      IP    Q  H     AT    ___    G
R     4     4  4     4-     4-    5
L     5     5  5     5      5    5

Sensation: decreased sensation on L anterior thigh

Bilateral 3 beat clonus
No point tenderness
Rectal exam normal sphincter control

PHYSICAL EXAM UPON DISCHARGE: 
VS - AVSS
GEN - NAD, comfortable laying in bed, incision clean/dry/intact 
with no erythema/drainage or other signs of local infection, 
staples in place
CNS - A/Ox3, speech fluent/appropriate with intact 
comprehension.  Motor right iliopsoas ___, right quadriceps ___, 
right hamstring ___ right tibialis anterior and ___ ___, 
gastroc ___. Left lower extremity ___ in all major muscle 
groups.  SILT intact in L2-S1 bilaterally with slight diminished 
sensation throughout the left lower extremity compared to the 
right. No proprioception in bilateral great toes.
 
Pertinent Results:
___ MRI T-spine:
1.8 cm well-circumscribed intradural extramedullary, T1 iso-, T2 

hypointense, enhancing lesion at T6 level, with mass effect on 
to the thoracic cord.  No cord edema.  Given its location and 
signal characteristics, differential diagnosis favors 
schwannoma, but meningioma or metastasis remains on the 
differential. Mild multilevel degenerative changes as described 
above. 

___ CXR:
Lungs clear.  Heart size normal. No hilar, pleural or 
mediastinal 
abnormality. 

___ RLE Doppler: prelim at time of discharge:
No DVT
 
Brief Hospital Course:
The patient was evaluated in the ___ emergency department by 
the neurosurgery team and was found to have a spinal cord lesion 
at the T6 level.  She was admitted to the neurosurgery service 
and preopped for surgery on ___. She was started on Decadron 
and kept NPO. In the AM she went for an MRI with contrast then 
proceeded to the OR for T5/T6 laminectomy with excision of her 
T6 lesion. She tolerated the procedure well (for full details 
please see the separately dictated operative report).  She was 
extubated and transferred to the PACU and then back to the 
neurosurgery floor. She was given ___ antibiotics per 
routine and continued on her home medications. She was evaluated 
by physical therapy who determined that she would benefit from 
continued ___ rehabilitation.  She was diagnosed with a 
UTI and started on cipro on ___.  ___ were consulted. 
Patient improved on exam while in hostpital. On ___, exam has 
improved, but RLE was swollen and patient reported pain. RLE 
dopplers were done and found to be negative. She was given a bed 
at rehab and she was discharged in stable condition. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Simvastatin 10 mg PO DAILY 
3. losartan-hydrochlorothiazide *NF* 100-12.5 mg Oral daily 
4. dorzolamide-timolol *NF* ___ % ___ daily 
5. Lantus *NF* (insulin glargine) 100 unit/mL Subcutaneous QHS 
10 UNITs 
6. amlodipine-benazepril *NF* ___ mg Oral daily 
7. BuPROPion 100 mg PO DAILY 
QAM 
8. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. BuPROPion 100 mg PO DAILY 
QAM 
2. Simvastatin 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Heparin 5000 UNIT SC TID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Senna 1 TAB PO BID 
7. amlodipine-benazepril *NF* ___ mg ORAL DAILY 
8. dorzolamide-timolol *NF* ___ % ___ daily 
9. Lantus *NF* (insulin glargine) 100 unit/mL SUBCUTANEOUS QHS 
10 UNITs 
10. losartan-hydrochlorothiazide *NF* 100-12.5 mg Oral daily 
11. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
T6 lesion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thoracic Decompression - Tumor excision

•You have staples in place to close your incision, keep your 
wound clean and dry until they are removed. 
• No tub baths or pool swimming for two weeks from your date of 
surgery.
•Do not smoke.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have a friend or family member check your incision daily for 
signs of infection.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort. Pain medication should 
be used as needed when you have pain. You do not need to take it 
if you do not have pain.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. for two weeks.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.

 
Followup Instructions:
___